*T1
Va 0 3 DC 5.12775921163 
Id 7 5 DC 1.02526488404m
R1 0 1 1.01787737043k
R2 1 2 2.04571952501k
R3 1 4 3.05375801147k
R4 3 4 4.04666279155k
R5 4 5 3.06704055629k
R6 8 6 2.03801057346k
R7 6 7 1.01955463161k
VE 3 8 0V
Hvc 4 7 VE 8.06614086819k

Gib 5 2 1 4 7.01231226489m

.control


op
.options savecurrents

echo "********************************************"
echo  "Operating point"
echo "********************************************"

echo "op_TAB"

print all
print v(1,4)
print v(4,7)

echo "op_END"
.endc
.end
